US07514452B2
Preparation of 3-phenoxybromobenzene
A mixture of 1,3-dibromobenzene (15.7 g), phenol (8.0 g), potassium hydroxide (3.8 g, mortar-ground) and copper powder (0.1 g) was heated at reflux for 18 hours at 210° C. After cooling, the reaction mixture was mixed with toluene and successively washed with 10% aqueous sodium hydroxide and water. The toluene was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane), thereby giving 6.1 g of the desired compound.

reactant | 1,3-dibromobenzene | 15.7 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | phenol | 8.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
catalyst | copper | 0.1 g | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxybromobenzene | 6.1 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)Br | C12H9BrO
